US05068264
105.5 g (1.01 mol) of methacryloyl chloride were added dropwise between -30° and -35° C. to a stirred solution of 160 g (1.01 mol) of N-formyl-N-'-2-hydroxyethylpiperazine, 111 g (1.10 mol) of triethylamine and 100 mg of 2,6-di-tert.-butyl-4-methylphenol in 300 ml of dichloromethane and the mixture was stirred for two hours at the same temperature. The precipitate which deposited was filtered off and the filtrate was washed with sodium chloride solution, dried and concentrated to give 166.8 g (73% of theory) of a clear oil of N-formyl-N'-(methacryloyloxyethyl)piperazine. It was possible to elute this with methanol in high purity from a silica gel column after separating small amounts of by-products with ether/n-hexane (6:4).

reactant | methacryloyl chloride | 1.01 mol, 105.5 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | N-formyl-N-'-2-hydroxyethylpiperazine | 1.01 mol, 160 g | C(=O)N1CCN(CC1)CCO | C7H14N2O2
reactant | triethylamine | 1.10 mol, 111 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-di-tert.-butyl-4-methylphenol | 100 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N-formyl-N'-(methacryloyloxyethyl)piperazine | C(=O)N1CCN(CC1)CCOC(C(=C)C)=O | C11H18N2O3
